US05389292
4-Benzyloxy-difluoromethoxy-benzene
A mixture of 40.0 g of hydroquinone monobenzyl ether, 40 g of NaOH, 200 ml of water and 300 ml of dioxane are heated to 70° C. with stirring. 35.5 g of chlorodifluoromethane are passed into the cooled mixture with vigorous stirring. The reaction mixture is poured into water, and the product is extracted with petroleum ether. The organic phase is dried over Na2SO4, evaporated, and the residue is chromatographed through a short silica gel column, using petroleum ether/ethyl acetate 8:2 as eluent. A colourless liquid is obtained.

reactant | hydroquinone monobenzyl ether | 40.0 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | NaOH | 40 g | [OH-].[Na+]
reactant | chlorodifluoromethane | 35.5 g | ClC(F)F | CHClF2
solvent | water | O | H2O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 4-Benzyloxy-difluoromethoxy-benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(F)F | C14H12F2O2
